*SPICE Netlist for circuit 205
V2 7 0 5V
V1 8 0 5V
R3 4 1 1k
R1 1 VDD 1k
M2 1 7 4 4 NMOS W=1u L=1u
R4 2 3 1k
R2 2 VDD 1k
M1 2 8 3 3 NMOS W=1u L=1u
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

